US04297480
1-Cyclohexyl-10,10-dimethyl-1,11-diaminoundecane
Hydrogenation of 1-phenyl-10,10-dimethyl-1,11-diaminoundecane in the presence of a ruthenium/charcoal catalyst; b.p. 147° C./4 Pa; nD20 =1.4805.

reactant | 1-phenyl-10,10-dimethyl-1,11-diaminoundecane | C1(=CC=CC=C1)C(CCCCCCCCC(CN)(C)C)N | C19H34N2
reactant | 4 Pa | C=CCCC(=O)O | C5H8O2
catalyst | ruthenium charcoal | [Ru].C
product | 1-Cyclohexyl-10,10-dimethyl-1,11-diaminoundecane | C1(CCCCC1)C(CCCCCCCCC(CN)(C)C)N | C19H40N2
